US05985873
A solution of N-[3-[4-methyl-1-(4-phenyl-1-piperazinyl)-cyclohexyl]phenyl]-1,4-dioxa-8-azaspiro[4.5]decane-8-carboxamide (cis isomer) (34 mg, 0.066 mmol) was dissolved in 4 mL of 6N HCl and the clear homogeneous solution was allowed to stand for 1 h at room temperature. The reaction mixture was made basic with 1N NaOH, extracted with CH2Cl2, dried (Na2SO4) and concentrated to give the crude ketone. The residue was triturated with 30% EtOAc/hexanes to yield colorless crystals of 4-(oxo)-N-[3-[4-methyl-1-(4-phenyl-1-pipera-zinyl)-cyclohexyl]phenyl]-1-piperidinecarboxamide (cis isomer). mp=~173° C. (decomp.).

reactant | N-[3-[4-methyl-1-(4-phenyl-1-piperazinyl)-cyclohexyl]phenyl]-1,4-dioxa-8-azaspiro[4.5]decane-8-carboxamide | 0.066 mmol, 34 mg | CC1CCC(CC1)(N1CCN(CC1)C1=CC=CC=C1)C=1C=C(C=CC1)NC(=O)N1CCC2(OCCO2)CC1 | C31H42N4O3
reactant | NaOH | 1N | [OH-].[Na+]
solvent | HCl | 6N, 4 mL | Cl | ClH
product | 4-(oxo)-N-[3-[4-methyl-1-(4-phenyl-1-pipera-zinyl)-cyclohexyl]phenyl]-1-piperidinecarboxamide | O=C1CCN(CC1)C(=O)NC1=CC(=CC=C1)C1(CCC(CC1)C)N1CCN(CC1)C1=CC=CC=C1 | C29H38N4O2
